US04163846
5-Amino-4-cyano-1-(2,2-dimethylpropanoyl)-3-(2,2-dimethylpropanoylamino)pyrazole (v)
The above compound was prepared from 3,5-diamino-4-cyanopyrazole, prepared as in Example 13, by reaction thereof with two moles of pivaloyl chloride in pyridine in an analogous manner to that described in Example 1(b). Melting point 181°-184° C.

reactant | 3,5-diamino-4-cyanopyrazole | NC1=NNC(=C1C#N)N | C4H5N5
reactant | pivaloyl chloride | two moles | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Amino-4-cyano-1-(2,2-dimethylpropanoyl)-3-(2,2-dimethylpropanoylamino)pyrazole | NC1=C(C(=NN1C(C(C)(C)C)=O)NC(C(C)(C)C)=O)C#N | C14H21N5O2
